US08106099B2
A reaction mixture of 10.0 g (64 mmol) of 5-fluoro-2-aminobenzoic acid, 16.3 g (193 mmol) of sodium hydrogencarbonate and 16.3 g of 8-quinoline-sulfonyl chloride in 325 ml of water and 325 ml of ethyl acetate was stirred overnight at RT. The aqueous phase was separated off and extracted once with 50 ml of ethyl acetate. The aqueous phase was then rendered acidic using conc. hydrochloric acid and stirred for 2 h. The precipitate deposited was filtered off with suction, dried in vacuo and 19.5 g of 5-fluoro-2-(quinoline-8-sulfonylamino)benzoic acid were obtained.

reactant | 5-fluoro-2-aminobenzoic acid | 64 mmol, 10.0 g | FC=1C=CC(=C(C(=O)O)C1)N | C7H6FNO2
reactant | sodium hydrogencarbonate | 193 mmol, 16.3 g | C(O)([O-])=O.[Na+]
reactant | 8-quinoline-sulfonyl chloride | 16.3 g | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)Cl | C9H6ClNO2S
solvent | water | 325 ml | O | H2O
solvent | ethyl acetate | 325 ml | C(C)(=O)OCC | C4H8O2
product | 5-fluoro-2-(quinoline-8-sulfonylamino)benzoic acid | 19.5 g | FC=1C=CC(=C(C(=O)O)C1)NS(=O)(=O)C=1C=CC=C2C=CC=NC12 | C16H11FN2O4S
